US07148215B2
4-Formylpiperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester
A solution of piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (38.22 g, prepared according to the procedure described in WO 96/31478 Step B page 94) in dry dichloromethane (400 mL) was treated with pentafluorophenyl formate (43.32 g, prepared according to the procedure of Kisfaludy and Otvos, Synthesis, 1987, 510). After stirring at room temperature overnight the reaction mixture was treated with N,N-dimethylethylenediamine (32.5 mL) and stirring continued for a further 1.5 hours. The reaction mixture was then washed with 1 M hydrochloric acid (400 mL), then a saturated solution of sodium hydrogen carbonate (400 mL), then water (400 mL), dried over sodium sulfate and then evaporated. The residue was triturated with a mixture of diethyl ether and pentane to give the title compound (27.21 g) as an off white solid, MS: 309 [MNa]+.

reactant | piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | C(C)OC(=O)C1CN(CCN1)C(=O)OC(C)(C)C | C12H22N2O4
reactant | pentafluorophenyl formate | C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C7HF5O2
reactant | N,N-dimethylethylenediamine | 32.5 mL | CN(CCN)C | C4H12N2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 4-Formylpiperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 27.21 g | C(C)OC(=O)C1CN(CCN1C=O)C(=O)OC(C)(C)C | C13H22N2O5
